US08067445B2
Step 4: {4′-Bromo-2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (5-bromo-2-iodo-benzyl)-ethyl-carbamic acid tert-butyl ester and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | (5-bromo-2-iodo-benzyl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)CC1=C(C=CC(=C1)Br)I)=O | C14H19BrINO2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | {4′-Bromo-2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)CN(CC)C(=O)OC(C)(C)C)=O | C25H32BrNO5
